US08865706B2
Step 1. Synthesis of 1-(6-methylpyridin-3-yl)but-3-en-1-ol (C49)
To a mixture of 6-methylpyridine-3-carbaldehyde (20 g, 0.16 mol) in tetrahydrofuran (400 mL) was added allylmagnesium bromide (246 mL, 0.246 mol) drop-wise at −40° C. The mixture was stirred at −20° C. for 10 minutes and a second aliquot of allylmagnesium bromide (82 mL, 82 mmol) was added drop-wise at −20° C. When thin layer chromatography (Eluent: 3:1 petroleum ether/ethyl acetate) indicated the reaction was complete, the reaction was quenched with saturated aqueous ammonium chloride solution (20 mL) at 0° C. The resulting mixture was partitioned between ethyl acetate (200 mL) and water (100 mL), and the aqueous phase was extracted with ethyl acetate (2×200 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution (100 mL), dried, filtered, and concentrated in vacuo to afford the product as a yellow oil. Yield 25 g, 0.15 mol, 94%. 1H NMR (400 MHz, CDCl3) δ 8.42-8.48 (m, 1H), 7.61 (dd, J=8.0, 2.3 Hz, 1H), 7.15 (d, J=8.2 Hz, 1H), 5.74-5.86 (m, 1H), 5.12-5.22 (m, 2H), 4.77 (dd, J=7.5, 5.5 Hz, 1H), 2.55 (s, 3H), 2.46-2.58 (m, 2H).

reactant | 6-methylpyridine-3-carbaldehyde | 0.16 mol, 20 g | CC1=CC=C(C=N1)C=O | C7H7NO
reactant | allylmagnesium bromide | 0.246 mol, 246 mL | C(C=C)[Mg]Br
reactant | allylmagnesium bromide | 82 mmol, 82 mL | C(C=C)[Mg]Br
solvent | tetrahydrofuran | 400 mL | O1CCCC1 | C4H8O
product | 1-(6-methylpyridin-3-yl)but-3-en-1-ol | CC1=CC=C(C=N1)C(CC=C)O | C10H13NO
